US04379159
4,5-Bis(4-chlorophenyl)-4,5-dihydro-2-(2,2,2-trifluoroethylthio)-1H-imidazole Hydrochloride
By the procedure described in Example 1, 2.0 g of 4,5-bis-(4-chlorophenyl)-4,5-dihydro-1H-imidazole-2-thiol was reacted with 2,2,2-trifluoroethyl trichloromethanesulfonate to give the title compound. Recrystallization from nitromethane afforded 850 mg of colorless crystals, m.p. 230° dec. The NMR and infrared spectra were consistent with this structure.

reactant | 4,5-bis-(4-chlorophenyl)-4,5-dihydro-1H-imidazole-2-thiol | 2.0 g | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)S | C15H12Cl2N2S
reactant | 2,2,2-trifluoroethyl trichloromethanesulfonate | ClC(S(=O)(=O)OCC(F)(F)F)(Cl)Cl | C3H2Cl3F3O3S
product | 4,5-Bis(4-chlorophenyl)-4,5-dihydro-2-(2,2,2-trifluoroethylthio)-1H-imidazole Hydrochloride | Cl.ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)SCC(F)(F)F | InChI=1S/C17H13Cl2F3N2S.ClH/c18-12-5-1-10(2-6-12)14-15(11-3-7-13(19)8-4-11)24-16(23-14)25-9-17(20,21)22;/h1-8,14-15H,9H2,(H,23,24);1H
